US04588749
N-(2-(2,4-Dimethylphenyl)-1-methylethyl)-2-hydroxy-2-phenyl ethanamine (6:94)
The title compound was prepared in the manner described in Example 9 using phenylglyoxal and 2-(2,4-dimethylphenyl)-1-methylethanamine. The residual oil was chromatographed on Kieselgel 60 using 3% methanol-chloroform. Recrystallization of the resulting solid from hexane gave the title compound m.p. 91-92 as a 6:94 mixture of diastereoisomers. τ(CDCl3) 8.9 (3H, d, J=6 Hz), 7.7 (6H, s), 6.9-7.6 (5H, (m) +2H, disappears with D2O) 5.35 (1H, m), 3.05 (3H, s), 2.68 (5H, m).

reactant | phenylglyoxal | C1(=CC=CC=C1)C(=O)C=O | C8H6O2
reactant | 2-(2,4-dimethylphenyl)-1-methylethanamine | CC1=C(C=CC(=C1)C)CC(N)C | C11H17N
product | N-(2-(2,4-Dimethylphenyl)-1-methylethyl)-2-hydroxy-2-phenyl ethanamine | CC1=C(C=CC(=C1)C)CC(C)NCC(C1=CC=CC=C1)O | C19H25NO
